US06262040B1
1.D 1-Cyclopentyl-1H-indazole-6-carboxylic acid
A mixture of 3.93 g (16.1 mmol, 1.0 equiv) of 1-cyclopentyl-1H-indazole-6-carboxylic acid methyl ester, 100 mL CH3OH and 50 mL 1N NaOH was heated to reflux for 30 minutes. The reaction mixture was cooled to room temperature, and most of the CH2OH removed on a rotary evaporator. The residue was diluted with 325 mL H2O and acidified to pH=1 with 2N HCl. After stirring 5 minutes, the mixture was filtered, and the solid washed 2×H2O and dried overnight to give 3.42 g (92%) of a yellow powder: mp 172-175° C.; Anal. calcd for C13H14N2O2: C, 67.79; H, 6.13; N, 12.16. Found: C, 67.62; H 5.82; N, 12.19.

reactant | 1-cyclopentyl-1H-indazole-6-carboxylic acid methyl ester | 16.1 mmol, 3.93 g, 1.0 equiv | COC(=O)C1=CC=C2C=NN(C2=C1)C1CCCC1 | C14H16N2O2
reactant | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | CH3OH | 100 mL | CO | CH4O
product | 1-Cyclopentyl-1H-indazole-6-carboxylic acid | 3.42 g, 92% | C1(CCCC1)N1N=CC2=CC=C(C=C12)C(=O)O | C13H14N2O2
